US07208601B2
8.50 g of 2(R)-tert-butoxycarbonylamino-3-(5-isopropenyl-thiophen-2-yl)-propionic acid methyl ester was treated with Pd/C and H2 gas (1 atm) by the general procedure N to afford 8.20 g of 2(R)-tert-butoxycarbonylamino-3-(5-isopropyl-thiophen-2-yl)-propionic acid methyl ester. This ester was treated with HCl/dioxane (4.0 M) to afford 7.10 g of title compound.

reactant | 2(R)-tert-butoxycarbonylamino-3-(5-isopropenyl-thiophen-2-yl)-propionic acid methyl ester | 8.50 g | COC([C@@H](CC=1SC(=CC1)C(=C)C)NC(=O)OC(C)(C)C)=O | C16H23NO4S
catalyst | Pd/C | [Pd] | Pd
product | 2(R)-tert-butoxycarbonylamino-3-(5-isopropyl-thiophen-2-yl)-propionic acid methyl ester | 8.20 g | COC([C@@H](CC=1SC(=CC1)C(C)C)NC(=O)OC(C)(C)C)=O | C16H25NO4S
